* Extracted by KLayout with SG13G2 LVS runset on : 31/03/2026 15:49

.SUBCKT count1bit
M$1 \$1 \$11 \$40 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.1425p
+ PS=2.18u PD=1.13u
M$2 \$40 \$16 \$1 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.1425p AD=0.255p
+ PS=1.13u PD=2.18u
M$3 \$1 \$11 \$8 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.1425p PS=2.18u
+ PD=1.13u
M$4 \$8 \$18 \$1 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.1425p AD=0.255p PS=1.13u
+ PD=2.18u
M$5 \$1 \$12 \$5 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.51p AD=0.285p PS=3.68u
+ PD=1.88u
M$6 \$5 \$13 \$6 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.285p AD=0.51p PS=1.88u
+ PD=3.68u
M$7 \$1 \$3 \$7 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.51p AD=0.285p PS=3.68u
+ PD=1.88u
M$8 \$7 \$8 \$6 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.285p AD=0.51p PS=1.88u
+ PD=3.68u
M$9 \$1 \$3 \$9 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.51p AD=0.285p PS=3.68u
+ PD=1.88u
M$10 \$9 \$8 \$10 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.285p AD=0.51p PS=1.88u
+ PD=3.68u
M$11 \$6 \$4 \$15 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$12 \$40 \$2 \$15 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$13 \$40 \$2 \$17 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$14 \$8 \$4 \$17 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$15 \$1 \$3 \$12 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$16 \$1 \$8 \$13 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$17 \$1 \$10 \$14 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$18 \$1 \$15 \$16 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$19 \$1 \$17 \$18 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$20 \$40 \$11 \$41 \$38 sg13_lv_pmos L=0.15u W=3u AS=1.02p AD=0.57p PS=6.68u
+ PD=3.38u
M$21 \$41 \$16 \$38 \$38 sg13_lv_pmos L=0.15u W=3u AS=0.57p AD=1.02p PS=3.38u
+ PD=6.68u
M$22 \$8 \$11 \$42 \$38 sg13_lv_pmos L=0.15u W=3u AS=1.02p AD=0.57p PS=6.68u
+ PD=3.38u
M$23 \$42 \$18 \$38 \$38 sg13_lv_pmos L=0.15u W=3u AS=0.57p AD=1.02p PS=3.38u
+ PD=6.68u
M$24 \$38 \$3 \$12 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$25 \$38 \$8 \$13 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$26 \$38 \$12 \$39 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.285p
+ PS=3.68u PD=1.88u
M$27 \$39 \$13 \$38 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.285p AD=0.51p
+ PS=1.88u PD=3.68u
M$28 \$39 \$3 \$6 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.285p PS=3.68u
+ PD=1.88u
M$29 \$6 \$8 \$39 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.285p AD=0.51p PS=1.88u
+ PD=3.68u
M$30 \$38 \$3 \$10 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.285p PS=3.68u
+ PD=1.88u
M$31 \$10 \$8 \$38 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.285p AD=0.51p PS=1.88u
+ PD=3.68u
M$32 \$38 \$10 \$14 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$33 \$6 \$2 \$15 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$34 \$38 \$15 \$16 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$35 \$40 \$4 \$15 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$36 \$40 \$4 \$17 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$37 \$38 \$17 \$18 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$38 \$8 \$2 \$17 \$38 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
.ENDS count1bit
